### PR TITLE
feat: Add `getElem_unzip` lemmas

### PR DESCRIPTION
**Pull request by linesthatinterlace**
This PR adds `getElem` lemmas for `unzip`.

### CODE REVIEW

File: src/Init/Data/List/Zip.lean [hunk 1]
```diff
@@ -418,6 +418,36 @@ theorem unzip_eq_map : ∀ {l : List (α × β)}, unzip l = (l.map Prod.fst, l.m
...
+    (unzip l).fst[i]? = some a ↔ ∃ b, l[i]? = some (a, b) := by simp
+
+theorem getElem?_snd_unzip_eq_some {l : List (α × β)} {i : Nat} :
+    (unzip l).snd[i]? = some b ↔ ∃ a, l[i]? = some (a, b) := by simp
+
+theorem length_fst_unzip {l : List (α × β)} :
+    length (unzip l).fst = l.length := by simp
+
+theorem length_snd_unzip {l : List (α × β)} :
+    length (unzip l).snd = l.length := by simp
```
Comment (eric-wieser) [inline src/Init/Data/List/Zip.lean:437]: I think the point of the `unzip_fst` lemma above is that it removes the need for any further lemmas about `(unzip l).fst`, and so the omission of all of these (and perhaps the rest of the file too) is deliberate.

Comment (wrenna-robson) [reply src/Init/Data/List/Zip.lean:437]: I was told by Kim that she did want them and to make a PR.

Comment (wrenna-robson) [reply src/Init/Data/List/Zip.lean:437]: https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Array.20sorting.2E

**Comment by wrenna-robson** [comment]
@kim-em Did you want this? You indicated on Zulip that you did but Eric seems to be discouraging me.
